US07858796B2
(283) 3-[1-({3-[(3-ethylphenyl)oxy]propyl}sulfonyl)-4-piperidinyl]-5-phenyl-1H-indole-7-carboxamide
To a solution of 3-{1-[(3-chloropropyl)sulfonyl]-4-piperidinyl}-5-phenyl-1H-indole-7-carboxamide (23.0 mg, 0.05 mmol) in DMSO (1.0 mL), were added 3-ethylphenol (122.0 mg, 0.5 mmol), K2CO3 (35.0 mg, 0.25 mmol) and sodium iodide (1.0 mg). The reaction solution was heated to 80° C. overnight. After which time the reaction mixture was filtered and purified by reverse phase HPLC (water/CH3CN, 0.1% TFA 10-90%) to give the title compound (5 mg, 18%).

reactant | 3-{1-[(3-chloropropyl)sulfonyl]-4-piperidinyl}-5-phenyl-1H-indole-7-carboxamide | 0.05 mmol, 23.0 mg | ClCCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CC=CC=C1)C(=O)N | C23H26ClN3O3S
reactant | 3-ethylphenol | 0.5 mmol, 122.0 mg | C(C)C=1C=C(C=CC1)O | C8H10O
reactant | K2CO3 | 0.25 mmol, 35.0 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | sodium iodide | 1.0 mg | [I-].[Na+]
solvent | DMSO | 1.0 mL | CS(=O)C | C2H6OS
product | 3-[1-({3-[(3-ethylphenyl)oxy]propyl}sulfonyl)-4-piperidinyl]-5-phenyl-1H-indole-7-carboxamide | 5 mg, 18% | C(C)C=1C=C(C=CC1)OCCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CC=CC=C1)C(=O)N | C31H35N3O4S
